datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14].[O:37][H:38]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:13])[H:14].[H:12][O:37][H:38],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[C:9](=[C:10]([C:11]([H:16])[H:17])[H:14])([H:12])[H:13],42.6768
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])[H:7],41.8818
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16]#[C:15][H:20])([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:8])[H:7],31.129
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:4])([H:5])[H:6],52.3
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15](=[C:16]=[C:17]([H:19])[H:20])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15](=[C:16]=[C:17]([H:19])[H:20])[H:18],53.5552
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[H:6]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][H:6],47.136944
[C:0]([C:1]([C:2]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([C:5]([O:6][C:7]([C:8]([H:23])([H:24])[H:25])=[O:9])([H:21])[H:22])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])=[C:5]([H:21])[H:22])([H:13])[H:14])([H:10])([H:11])[H:12].[O:6]=[C:7]([C:8]([H:23])([H:24])[H:25])[O:9][H:15],191.6272
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([C:5]([O:6][O:7][H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([C:5]([O:6])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[O:7][H:20])([H:8])([H:9])[H:10],62.3416
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[S:11]([C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([S:11][H:19])([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])[H:20],8.5772
[C:0](=[C:1][N:2]([H:5])[H:6])([H:3])[H:4].[O:7][H:8]>>[C:0](#[C:1][N:2]([H:5])[H:6])[H:4].[H:3][O:7][H:8],0.0
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:7])([H:5])[H:6],82.5085
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])[H:16])[H:15])[H:3],32.1331
[C:0]([C:1]([C:2]1[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:7])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:10])[H:11])([H:8])[H:9],171.962
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23],77.8224
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14],210.79
